US03985887
To a boiling solution of 50 g of 4-methoxybenzaldehyde in 50 ml of p-cymeme is added 11.2 g of 6-methylpicolinic acid. After heating for 3 hours, the reaction is cooled and extracted with 2N HCl. The acidic extracts are washed with ether, made basic with ammonia and extracted with ether. Concentration of the dried ether extracts gives 4-methoxyphenyl-(6-methyl-2-pyridyl)carbinol.

reactant | 4-methoxybenzaldehyde | 50 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 6-methylpicolinic acid | 11.2 g | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
product | 4-methoxyphenyl-(6-methyl-2-pyridyl)carbinol | COC1=CC=C(C=C1)C(O)C1=NC(=CC=C1)C | C14H15NO2
